US07314888B1
In 5.8 ml of ethanol is dissolved 0.29 g of benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-[(2-methyl-2-propenyl)oxy]-1-pyrrolidinecarboxylate. After adding 0.06 g of 5% palladium-carbon, the mixture is stirred at ambient temperature for 1.5 hours in a stream of hydrogen. The reaction mixture is filtered with Celite, and the solvent is distilled off from the filtrate under reduced pressure. Thus, 0.18 g of (2R,4R)-4-isobutoxy-2-(4-methylpentyl)-pyrrolidine is obtained as a yellow oily product.

reactant | benzyl (2S,4R)-2-(4-methyl-1-pentenyl)-4-[(2-methyl-2-propenyl)oxy]-1-pyrrolidinecarboxylate | 0.29 g | CC(CC=C[C@H]1N(C[C@@H](C1)OCC(=C)C)C(=O)OCC1=CC=CC=C1)C | C22H31NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5.8 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.06 g | [C].[Pd]
product | (2R,4R)-4-isobutoxy-2-(4-methylpentyl)-pyrrolidine | 0.18 g | C(C(C)C)O[C@@H]1C[C@H](NC1)CCCC(C)C | C14H29NO
